US05362906
Step 3: (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienylamine.
Water (46 μL) was added to a stirred mixture of (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienylazide (0.8 g, 3.2 mmol) and triphenylphosphine (0.94 g, 3.62 mmol) in THF (3 mL) and stirred at room temperature overnight. An additional amount of water (46 ML) was added and stirred for another two hours. The reaction mixture was evaporated to dryness and the residue was redissolved in methylene chloride, then MgSO4 was added and filtered. The filtrate was concentrated in vacuo to give the crude title compound as an oily solid which was used in the next step without purification.

reactant | Water | 46 μL | O | H2O
reactant | (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienylazide | 3.2 mmol, 0.8 g | C\C(=C/CN=[N+]=[N-])\CC\C=C(\CCC=C(C)C)/C | C15H25N3
reactant | triphenylphosphine | 3.62 mmol, 0.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienylamine | C\C(=C/CN)\CC\C=C(\CCC=C(C)C)/C | C15H27N
